US04207320
10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide
A mixture of 614 g. of quinoline, 192 g. of 6-fluoroquinaldine [J. Org. Chem. 42, 911 (1977)], 2.0 l. of chlorobenzene and 602 g. of iodine is stirred at 25°-30° C. for 2 hours, then heated at 95°-100° C. for 90 hours. The mixture is cooled and the precipitate is collected, washed with cold chlorobenzene and suspended in 1.5 l. of methanol. The methanol suspension is stirred with 150 ml. of hydrazine hydrate and the resulting solid 10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration; m.p. 330°-334° C., after crystallization from methanol.

reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 6-fluoroquinaldine | FC=1C=C2C=CC(=NC2=CC1)C | C10H8FN
reactant | iodine | II | I2
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].FC1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC=CC2C=C1)C3 | InChI=1S/C19H12FN2.HI/c20-15-7-9-18-14(11-15)5-8-16-12-21-17-4-2-1-3-13(17)6-10-19(21)22(16)18;/h1-12H;1H/q+1;/p-1
